US08242104B2
9-Bromo-2-iodo-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine (1.5 g, 3.8 mmol) and bis(triphenylphosphine) palladium(II) chloride (142 mg, 0.202 mmol), DMF (45 mL) and hexamethyldisilazane (4.34 mL, 20.6 mmol) were mixed. The entire solution was purged with a CO balloon and sealed with the CO balloon attached. The reaction flask was heated at 70° C. for 2 h. LC/MS indicated clean conversion. Cooled to room temp and poured into 1 N HCl (30 mL). Stirred for 5 min and neutralized with sat. aq. NaHCO3 soln. Extracted three times with EtOAc, dried over MgSO4, filtered and concentrated in vacuo. Triturated with IPA and the solids were collected after filtration and EtOAc wash. This provided 734 mg (62% yield) of 9-bromo-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide as a tan solid. LC/MS (ESI+): m/z 310 (M+H). 1H NMR (400 MHz, CDCl3) δ 8.36 (d, J=8.5, 1H), 7.63 (s, 1H), 7.24 (dd, J=7.2, 4.2, 1H), 7.09-6.99 (m, 1H), 4.51-4.36 (m, 4H).

reactant | 9-Bromo-2-iodo-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine | 3.8 mmol, 1.5 g | BrC1=CC2=C(C=3N(CCO2)C=C(N3)I)C=C1 | C11H8BrIN2O
reactant | hexamethyldisilazane | 20.6 mmol, 4.34 mL | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | DMF | 45 mL | CN(C)C=O | C3H7NO
catalyst | bis(triphenylphosphine) palladium(II) chloride | 0.202 mmol, 142 mg | [Pd](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 9-bromo-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide | 734 mg, 62% yield | BrC1=CC2=C(C=3N(CCO2)C=C(N3)C(=O)N)C=C1 | C12H10BrN3O2
